US07482491B2
4-[4-(3-benzyloxyphenylthio)-2-chlorophenyl]propyl-4-hydroxymethyl-2-oxazolidinone
2-[4-(3-benzyloxyphenylthio)-2-chlorophenyl]propyl-2-t-butoxycarbonylamino-1,3-propanediol (3.30 g) was dissolved in THF (80 mL). At 0° C., 60% sodium hydride (600 mg) was added and the mixture was stirred at room temperature for 24 hours. To the resulting reaction mixture, ice water was added and the mixture was extracted with ethyl acetate. The extract was washed sequentially with water and a saturated aqueous solution of sodium hydroxide, and the organic phase was dried over anhydrous sodium sulfate. The solvent was removed and the residue was purified on a silica gel column chromatography (hexane:ethyl acetate=1:1 and then ethyl acetate alone) to give the desired product as a pale yellow oil (2.37 g).

reactant | 2-[4-(3-benzyloxyphenylthio)-2-chlorophenyl]propyl-2-t-butoxycarbonylamino-1,3-propanediol | 3.30 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)SC1=CC(=C(C=C1)C(CC(C(CO)NC(=O)OC(C)(C)C)O)C)Cl | C30H36ClNO5S
reactant | sodium hydride | 600 mg | [H-].[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 4-[4-(3-benzyloxyphenylthio)-2-chlorophenyl]propyl-4-hydroxymethyl-2-oxazolidinone | 2.37 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)SC1=CC(=C(C=C1)CCCC1(NC(OC1)=O)CO)Cl | C26H26ClNO4S
